US06891066B2
Step A: Preparation of methyl 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]benzoate
The title compound was prepared by Sonogashira reaction of propargyl alcohol and methyl 3,4-difluoro-2-(2-fluoro-4-iodoanilino)benzoate by the general procedure of Example 1, Step A. The oil resulting from workup was purified by chromatography on silica gel (20% EtOAc/PE as eluant), to give methyl 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]benzoate as a pale yellow solid (94%); m.p. (Et2O/hexane) 116-120° C. 1H NMR [400 MHz, (CD3)2SO] δ 8.79 (s, 1 H), 7.79 (ddd, J=8.3, 5.9, 2.0 Hz, 1 H), 7.30 (dd, J=12.2, 1.8 Hz, 1 H), 7.26-7.17 (m, 1 H), 7.15 (dd, J=8.5, 1.6 Hz, 1 H), 6.92 (ddd, J=8.8,8.8,4.7 Hz, 1 H), 5.31 (br s, 1 H), 4.28 (s, 2 H), 3.81 (s, 3 H). Anal. calcd. for C17H12F3NO3: C, 60.9; H, 3.6; N, 4.2. Found C, 61.4; H, 3.9; N, 4.7. Step B: Preparation of Methyl 3,4-difluoro-2-[2-fluoro-4-(3-hydroxypropyl)anilino]benzoate

reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | methyl 3,4-difluoro-2-(2-fluoro-4-iodoanilino)benzoate | FC=1C(=C(C(=O)OC)C=CC1F)NC1=C(C=C(C=C1)I)F | C14H9F3INO2
product | methyl 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]benzoate | 94% | FC=1C(=C(C(=O)OC)C=CC1F)NC1=C(C=C(C=C1)C#CCO)F | C17H12F3NO3
